US07790756B2
A solution of pyridine-3-boronic acid (0.68 g, 5.5 mmol) and 2-methyl-5-nitro phenol (0.85 g, 5.5 mmol) in DCM (10 mL) was treated with pyridine (1.00 mL, 12.4 mmol), copper acetate (1.5 g, 8.3 mmol) and powdered 4A molecular sieves (330 mg). The reaction mixture was stirred for 7 days at RT open to air. The mixture was poured into water (50 mL) and extracted with DCM (2×50 mL). The combined organic phases were washed with saturated aq NaHCO3 (25 mL), water (25 mL), satd NH4Cl (2×25 mL) and brine (25 mL), dried (Na2SO4), concentrated in vacuo and purified via chromatography on silica gel to provide 3-(2-methyl-5-nitrophenoxy)pyridine (81 mg, 6% yield). 1H NMR (400 MHz, CDCl3) δ 8.48 (dd, J=4.6, 1.0 Hz, 1H), 8.43 (d, J=2.4 Hz, 1H), 7.99 (dd, J=8.0, 2.0 Hz, 1H), 7.70 (d, J=2.4 Hz, 1H), 7.46 (d, J=8.4 Hz, 1H), 7.39-7.30 (m, 2H), 2.42 (s, 3H); MS (ESI) m/z: 231.0 (M+H+).

reactant | pyridine-3-boronic acid | 5.5 mmol, 0.68 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-methyl-5-nitro phenol | 5.5 mmol, 0.85 g | CC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO3
reactant | pyridine | 12.4 mmol, 1.00 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 50 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 8.3 mmol, 1.5 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(2-methyl-5-nitrophenoxy)pyridine | 81 mg, 6% yield | CC1=C(OC=2C=NC=CC2)C=C(C=C1)[N+](=O)[O-] | C12H10N2O3
